US04036974
1-[3'-n-dodecylthio-2'-hydroxypropyl]imidazole (1.63 g.) in 20 ml. of dichloromethane and 2 ml. of thionyl chloride are stirred for 2 hours at room temperature. Thereafter, the reaction mixture is evaporated to dryness to yield 1-[2'-chloro-3'-(n-dodecylthio)propyl]imidazole hydrochloride as a gum.

reactant | 1-[3'-n-dodecylthio-2'-hydroxypropyl]imidazole | 1.63 g | C(CCCCCCCCCCC)SCC(CN1C=NC=C1)O | C18H34N2OS
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-[2'-chloro-3'-(n-dodecylthio)propyl]imidazole hydrochloride | Cl.ClC(CN1C=NC=C1)CSCCCCCCCCCCCC | InChI=1S/C18H33ClN2S.ClH/c1-2-3-4-5-6-7-8-9-10-11-14-22-16-18(19)15-21-13-12-20-17-21;/h12-13,17-18H,2-11,14-16H2,1H3;1H
